US20010025118A1
Reactor (0.5 L) was charged under nitrogen with acetonitrile (200 ml) and polyphosphoric acid (220 g), and the mixture was stirred for 0.5 hour to obtain an emulsion. Solid 2,3-dichlorobenzoyl cyanide (41 g, 0.2 mole; assay 97.5%) was added to the emulsion. Aminoguanidine bicarbonate (41 g, 0.3 mole; assay 99.0%) was added to the mixture in 5 equal portions during 2 hours at 30-40° C. The reaction mixture was stirred at 50° C. during 22 hours. Water (40 ml) was then added to the reaction mixture to obtain a clear homogeneous mixture. The mixture was dropped to water at slow stirring for 0.5 hour, and the precipitate was collected by filtration to give wet phosphate salt of 2,3-dichlorobenzoyl cyanide amidinohydrazone.

reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
reactant | 2,3-dichlorobenzoyl cyanide | 0.2 mole, 41 g | ClC1=C(C(=O)C#N)C=CC=C1Cl | C8H3Cl2NO
reactant | Aminoguanidine bicarbonate | 0.3 mole, 41 g | C(O)(O)=O.NNC(=N)N
solvent | water | O | H2O
solvent | Water | 40 ml | O | H2O
product | 2,3-dichlorobenzoyl cyanide amidinohydrazone | C(N)(=N)NN=C(C1=C(C(=CC=C1)Cl)Cl)C#N | C9H7Cl2N5
